US07781431B2
Step 8: 6-cyclohexyl-4H-thieno[3,2-b]pyrrole-2-carboxylic acid
A solution (0.1 M) of 6-cyclohex-1-en-1-yl-4H-thieno[3,2-b]pyrrole-2-carboxylic acid in MeOH/AcOEt (2:1) was treated with 20% Pd(OH)2/C (10% wt.). The resulting suspension was stirred for 18 h under 45 psi of hydrogen then purged with nitrogen and filtered. The filtrate was concentrated to afford the title compound (98%) as a solid.

reactant | 6-cyclohex-1-en-1-yl-4H-thieno[3,2-b]pyrrole-2-carboxylic acid | 0.1 M | C1(=CCCCC1)C=1C2=C(NC1)C=C(S2)C(=O)O | C13H13NO2S
reactant | hydrogen | [H][H] | H2
solvent | MeOH AcOEt | CO.CCOC(=O)C
catalyst | Pd(OH)2/C | [OH-].[OH-].[Pd+2]
product | 6-cyclohexyl-4H-thieno[3,2-b]pyrrole-2-carboxylic acid | 98% | C1(CCCCC1)C=1C2=C(NC1)C=C(S2)C(=O)O | C13H15NO2S
